US07265149B2
In analogy to the procedure described for example 1 a], 2-ethyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazole-3-carboxylic acid ethyl ester was reduced with lithium aluminium hydride to give [2-ethyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-methanol as colorless crystals.

reactant | 2-ethyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1)C1=CC=C(C=C1)C(F)(F)F)CC | C15H15F3N2O2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | [2-ethyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-methanol | C(C)N1N=C(C=C1CO)C1=CC=C(C=C1)C(F)(F)F | C13H13F3N2O
